US06919360B2
Benzyl [(2R)-6-acetyl-3,4-dihydro-2H-chromen-2-yl]methyl[4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)butyl]carbamate
12.7 g (95 mmol) of anhydrous aluminum chloride are suspended in 10 ml of 1,2-dichloroethane. At 0° C., initially 5.9 ml (82 mmol) of acetyl chloride are added. At 0° C., a solution of 34 g (63 mmol) of benzyl (2R)-3,4-dihydro-2H-chromen-2-ylmethyl[4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)butyl]carbamate in 100 ml of 1,2-dichloroethane is slowly added dropwise to this mixture. The reaction is stirred at room temperature overnight. The mixture is poured into ice-water and the organic phase is then separated off and the aqueous phase is repeatedly extracted with dichloromethane. The combined organic extracts are dried over magnesium sulfate and concentrated. The resulting crude product is purified by chromatography (silica gel, mobile phase toluene/ethyl acetate 3:1). This gives 9.6 g (26.5% of theory) of benzyl [(2R)-6-acetyl-3,4-dihydro-2H-chromen-2-yl]methyl[4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)butyl]carbamate.

reactant | aluminum chloride | 95 mmol, 12.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 82 mmol, 5.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | benzyl (2R)-3,4-dihydro-2H-chromen-2-ylmethyl[4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)butyl]carbamate | 63 mmol, 34 g | O1[C@H](CCC2=CC=CC=C12)CN(C(OCC1=CC=CC=C1)=O)CCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C29H30N2O6S
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | Benzyl [(2R)-6-acetyl-3,4-dihydro-2H-chromen-2-yl]methyl[4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)butyl]carbamate | C(C)(=O)C=1C=C2CC[C@@H](OC2=CC1)CN(C(OCC1=CC=CC=C1)=O)CCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C31H32N2O7S
